** sch_path: /foss/designs/CEMS_DSM/CEMS_G2/DSM/Schematics/Ideal_Circuits/IDEAL_DSM.sch
**.subckt IDEAL_DSM
Vcm Vcm GND dc {vdd/2}
Vin Vin GND SIN(0 0.7 80 0 0 0)
Vp1 p1 GND dc 0 pulse(0, {vdd}, 0, 100n, 100n, 2u, 4.5u)
Vp2 p2 GND dc 0 pulse(0, {vdd}, 2.25u, 100n, 100n, 2u, 4.5u)
S1 Vin net1 p1 GND mysw
S2 net4 net2 p2 GND mysw
S3 net1 net3 p2 GND mysw
S4 net2 Vcm p1 GND mysw
C7 net1 net2 0.3p m=1
C1 net4 vo1 2.06p m=1
S5 vo1 net5 p2 GND mysw
S6 net7 net6 p1 GND mysw
S7 net5 net3 p1 GND mysw
S8 net6 Vcm p2 GND mysw
C2 net5 net6 0.2p m=1
C3 net7 vo2 0.7p m=1
E3 vcmp GND TABLE {V(vo2,0)} = (-0.1mV, 0V) (0.1mV, {vdd})
x2 net3 vcmp 1.5 0 sg13g2_inv_1
Vsup VDD GND dc {vdd}
Vss VSS GND dc 0
G1 vo1 GND net4 Vcm 1e-6
G2 vo2 GND net7 Vcm 1e-6
**** begin user architecture code

.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.inc /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice


.param temp=27 vdd = 1.5
.model mysw SW vt={vdd/2} ron=0.1
.option method=gear reltol=1e-4

.control
save all
run
tran 1u 20m
plot vcmp
set wr_singlescale
set wr_vecnames
wrdata IDEAL_SwitchCap.txt vo1 p1 p2
.endc

**** end user architecture code
**.ends
.GLOBAL GND
.GLOBAL VDD
.GLOBAL VSS
.end
